US07521446B2
N-((1S)-1-Phenylethyl)-N-(1,4-dioxaspiro[4.5]dec-8-yl)-2,2,2-trifluoroacetamide
((1S)-1-Phenylethyl)(1,4-dioxaspiro[4.5]dec-8-yl)amine (11.2 g, 42.85 mmol) was dissolved in dichloromethane (135 mL) at room temperature. The solution was treated with pyridine (3.81 mL, 47.14 mmol) and trifluoroacetic anhydride (7.15 mL, 51.42 mmol). The reaction was stirred over the week-end at room temperature. The completion of the reaction was ascertained by LC-MS. The reaction was washed with saturated ammonium chloride. After drying over sodium sulfate, the organic extracts were concentrated to a yellow oil. The crude was used without further purification.

reactant | ((1S)-1-Phenylethyl)(1,4-dioxaspiro[4.5]dec-8-yl)amine | 42.85 mmol, 11.2 g | C1(=CC=CC=C1)[C@H](C)NC1CCC2(OCCO2)CC1 | C16H23NO2
reactant | pyridine | 47.14 mmol, 3.81 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 51.42 mmol, 7.15 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 135 mL | ClCCl | CH2Cl2
product | N-((1S)-1-Phenylethyl)-N-(1,4-dioxaspiro[4.5]dec-8-yl)-2,2,2-trifluoroacetamide | C1(=CC=CC=C1)[C@H](C)N(C(C(F)(F)F)=O)C1CCC2(OCCO2)CC1 | C18H22F3NO3
